US07034093B2
Preparation of Propiophenone 2,4,6-Trimethylphenylimine (17)
2,4,6-Trimethylaniline (11.5 mL, 82 mmol, Aldrich) was mixed with propiophenone (10 mL, 74.5 mmol, Aldrich) and TSOH (1.4 g, 7.3 mmol, Aldrich). The resulting mixture was heated for 2 h at 200° C. under a weak stream of Ar to remove formed H2O. After cooling to RT the reaction mixture was poured into hexanes (100 mL), filtered, and the precipitate washed with additional hexanes (2×100 mL) followed by the evaporation of the filtrate. The residue was filtered through a 9×4.1 cm plug of silica gel in hexanes/ether 10/1 (300 mL collected). After evaporation of the solvent the unreacted starting materials were distilled off under vacuum (45–50° C./53 Pa). The residue was crystallized from methanol at −30° C. Product was isolated as large orange-yellow crystals, 4.8 g, (25.6%). 1H NMR (CDCl3) 8.00–7.94 (m, 2H); 7.51–7.45 (m, 3H); 6.89 (s, 2H); 2.50 (q, 2H; J=7.7 Hz); 2.31 (s, 3H); 2.04 (s, 6H); 0.98 (t, 3H; J=7.7 Hz). 13C NMR (CDCl3): 170.8, 146.4, 138.2, 131.9, 130.3, 128.7, 128.6, 127.7, 125.6, 23.9, 20.9, 18.2, 11.6. Anal. Calcd for C18H21N: C, 86.00; H, 8.42; N, 5.57. Found: C, 85.79; H, 8.41; N, 5.56.

reactant | 2,4,6-Trimethylaniline | 82 mmol, 11.5 mL | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | propiophenone | 74.5 mmol, 10 mL | C(CC)(=O)C1=CC=CC=C1 | C9H10O
product | Propiophenone 2,4,6-Trimethylphenylimine | CC1=C(C(=CC(=C1)C)C)N=C(CC)C1=CC=CC=C1 | C18H21N
